US07615568B2
C. N-(5-Chloropyridin-2-yl)-3-[2-hydroxy-4-methylthio-benzoylamino]pyridine-2-carboxamide
To a mixture of 3-[2-acetoxy-4-methylthiobenzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide (13 g, 28.4 mmol), THF (100 mL) and MeOH (50 mL) was added Na2CO3 (5.75 g, 54.3 mmol), and the mixture was stirred for 18 h. The resulting yellow suspension was diluted with dichloro-methane (100 mL), and 1 N HCl (about 55 mL) was slowly added. The mixture was partitioned and the white organic suspension was concentrated. The residue was triturated with dichloromethane (200 mL) and filtered to give the title compound as a white solid (9.5 g, 22.9 mmol, 80%).

reactant | 3-[2-acetoxy-4-methylthiobenzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | 28.4 mmol, 13 g | C(C)(=O)OC1=C(C(=S)NC=2C(=NC=CC2)C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)C | C21H17ClN4O3S
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | MeOH | 50 mL | CO | CH4O
reactant | Na2CO3 | 54.3 mmol, 5.75 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloro-methane | 100 mL | ClCCl | CH2Cl2
solvent | HCl | 1 N, about 55 mL | Cl | ClH
product | N-(5-Chloropyridin-2-yl)-3-[2-hydroxy-4-methylthio-benzoylamino]pyridine-2-carboxamide | 22.9 mmol, 9.5 g, 80% | ClC=1C=CC(=NC1)NC(=O)C1=NC=CC=C1NC(C1=C(C=C(C=C1)C)O)=S | C19H15ClN4O2S
